US04141899
4-Phenyl-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine (386/1254)
A solution of 3.5 g of 4-phenyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine (Farmaco, Ed. Sci., 1967, 22, 821) and 3.5 g of methyl isothiocyanate in 55 ml of dioxane is refluxed for 4 h. The solution is cooled and filtered: 3.6 g of 4-phenyl-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydroimidazo-[4,5-c]-pyridine, m.p. 228°, are collected.

reactant | 4-phenyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | 3.5 g | C1(=CC=CC=C1)C1NCCC2=C1N=CN2 | C12H13N3
reactant | methyl isothiocyanate | 3.5 g | CN=C=S | C2H3NS
solvent | dioxane | 55 ml | O1CCOCC1 | C4H8O2
product | 4-Phenyl-5-(N-methyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | C1(=CC=CC=C1)C1N(CCC2=C1N=CN2)C(NC)=S | C14H16N4S
